US05229481
1.3-Di(triethoxysilyl)benzene.
Magnesium chips (28.0 g, 1.15 mol) and freshly distilled tetraethoxysilane (450 mL, 2 mol) in tetrahydrofuran (750 mL) were placed under nitrogen in a 2 L 3-neck flask equipped with a magnetic stir bar, a condenser, and an additional funnel. A small crystal of iodine was added in order to activate the magnesium. A solution of 1,3-dibromobenzene (100.0 g, 0.424 mol) in tetrahydrofuran (250 mL) was added slowly. When ca. 25 mL of the dibromide had been added, the addition was stopped and stirring was continued until a mildly exothermic reaction began (usually within 20-30 minutes). The addition of dibromobenzene was continued and held at such a rate as to maintain the solution at reflux. After the addition was complete, the reaction mixture was stirred for two additional hours. The resulting brown solution was filtered from the remaining magnesium metal, and the tetrahydrofuran was removed by evacuation. The brown residue was extracted with dry hexane (500 mL), and combined extracts were concentrated in vacuo. Unreacted tetraethyl orthosilicate was removed in vacuo (103 torr), leaving a tea-brown oil. Two distillations gave the product as a clear, colorless oil (0.1 mm Hg, 126-128° C., 58.0 g., 34%). Anal. Calcd for C18H34O6Si2 : C, 53.7; H, 8.51. Found: C, 54.1; H, 8.59. IR (Neat, Csl, cm-1): 3060 W, 2970 s, 2920 s, 2880 s, 2730 w, 1577 m, 1478 w, 1439 m, 1390 s, 1365 m, 1290 m, 1160 s, 1090 vs, 958 s, B05 s, 770 s, 715 m, 705 m, 670 m, 485 s. 1H NMR (benzene-d6, 22° C., 300 MHz ): δ 1.15 (t, J=7.1 Hz, 18 H, OCH2CH3), 3.91 (q, J=7.1 Hz, 12 H, OCH2CH3), 7.30 (t, J=7.2 Hz, 1 H, C6H4), 7.89 (d, J=7.2 Hz, 2 H, C6H4), 8.37 (s, 1 H, C6H4). 13C{1H}NMR (benzene-d6, 22° C., 75.5 MHz): δ 18.43 (PHC2CH3), 58.89 (OCH2CH3), 127.59, 131.52, 137.06, 141.70 (C6H4)

reactant | Magnesium | [Mg] | Mg
reactant | tetraethoxysilane | 2 mol, 450 mL | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | iodine | II | I2
reactant | 1,3-dibromobenzene | 0.424 mol, 100.0 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | dibromobenzene | BrC1=C(C=CC=C1)Br | C6H4Br2
solvent | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 1.3-Di(triethoxysilyl)benzene | C(C)O[Si](C1=CC(=CC=C1)[Si](OCC)(OCC)OCC)(OCC)OCC | C18H34O6Si2
